US09290451B2
a) 2-Methyl-propane-2-sulfinic acid (3-thiazol-2-yl-oxetan-3-yl)-amide
A solution of n-butyllithium in hexanes (1.6 M, 2.5 mL, 3.99 mmol) was added dropwise to a solution of thiazole (364 mg, 4.23 mmol) in tetrahydrofuran (30 mL) at −78° C. The resulting mixture was stirred for 30 min at −78° C. before a solution of 2-methyl-n-(oxetan-3-ylidene)propane-2-sulfinamide (CAN 1158098-73-7) (500 mg, 2.85 mmol) in tetrahydrofuran (3.5 mL) was added dropwise at −78° C. The reaction solution was stirred for an additional 30 min at −78° C. before being warmed to 22° C., and then was quenched with saturated aqueous ammonium chloride solution. The crude reaction mixture was then partitioned between water and ethyl acetate. The aqueous layer was further extracted with ethyl acetate and the organic layers were combined. The combined layers were washed with saturated aqueous sodium chloride solution, and the washed solution was dried with anhydrous sodium sulfate and evaporated down to dryness. The crude product was purified by flash-column chromatography (40% ethyl acetate-hexanes, grading to 100% ethyl acetate, then flushing with 10% methanol-dichloromethane) to give the title compound (495 mg, 67%). MS (EI): m/e=261.0 [M+H]+.

reactant | n-butyllithium | C(CCC)[Li]
reactant | thiazole | 4.23 mmol, 364 mg | S1C=NC=C1 | C3H3NS
reactant | 2-methyl-n-(oxetan-3-ylidene)propane-2-sulfinamide | 2.85 mmol, 500 mg | CC(C)(C)S(=O)N=C1COC1 | C7H13NO2S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
product | 2-Methyl-propane-2-sulfinic acid (3-thiazol-2-yl-oxetan-3-yl)-amide | 495 mg, 67% | S1C(=NC=C1)C1(COC1)NS(=O)C(C)(C)C | C10H16N2O2S2
